US05391537
Preparation of calcium 3-(4,6-dimethoxypyrimidin-2-yl)oxy-6-dimethylaminopicolinate (Compound No. 49)
1.0 g (3.1 mmol) of potassium 3-(4,6-dimethoxypyrimidin-2-yl)oxy-6-dimethylaminopicolinate was dissolved in 10 ml of tetrahydrofuran, and 0.15 g (1.5 mmol) of precipitated calcium carbonate was added thereto. Furthermore, 10 ml of water was added to the resultant mixture, and the mixture was stirred at room temperature. The reaction liquor was concentrated under reduced pressure, and acetone was added thereto to precipitate a crystal. The crystal thus obtained was separated by filtration and was washed with hexane to obtain an aimed compound.

reactant | potassium 3-(4,6-dimethoxypyrimidin-2-yl)oxy-6-dimethylaminopicolinate | 3.1 mmol, 1.0 g | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)N(C)C)C(=O)[O-].[K+]
reactant | calcium carbonate | 1.5 mmol, 0.15 g | C([O-])([O-])=O.[Ca+2]
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | calcium 3-(4,6-dimethoxypyrimidin-2-yl)oxy-6-dimethylaminopicolinate | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)N(C)C)C(=O)[O-].[Ca+2].COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)N(C)C)C(=O)[O-] | InChI=1S/2C14H16N4O5.Ca/c2*1-18(2)9-6-5-8(12(15-9)13(19)20)23-14-16-10(21-3)7-11(17-14)22-4;/h2*5-7H,1-4H3,(H,19,20);/q;;+2/p-2
